US04056537
1,1-DIMETHYL-1,3,4,9-TETRAHYDROPYRANO[3,4-b]INDOLE (VII; R1 = CH3, R2, R3, R4, R5, R6, AND R7 = H AND Z = CH3)
A solution of tryptophol (8 g, 0.05M), acetone (5 g) and p-toluenesulfonic acid (100 mg) in 100 ml of benzene containing hydrated alkali-aluminium silicate (Molecular Sieves No. 4) is heated to reflux for 1 hr. More p-toluenesulfonic acid (100 mg) and the ketone, acetone (3 g), is added and the reflux continued for a further 1.5 hr.

reactant | tryptophol | 0.05M, 8 g | C=1C=CC2=C(C1)C(=CN2)CCO | C10H11NO
reactant | acetone | 5 g | CC(=O)C | C3H6O
reactant | p-toluenesulfonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | p-toluenesulfonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | acetone | 3 g | CC(=O)C | C3H6O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 1,1-DIMETHYL-1,3,4,9-TETRAHYDROPYRANO[3,4-b]INDOLE | CC1(OCCC2=C1NC1=CC=CC=C21)C | C13H15NO
